US07173033B2
A mixture of 1-[(benzyloxy)carbonyl]piperidine-3-carboxylic acid (2.44 g), 3-chloro-6-hydrazinopyridazine (1.34 g), WSCD hydrochloride (2.13 g) and methylene chloride (60 ml) was stirred at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure and extracted with ethyl acetate. The extract was washed successively with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant reside was combined with acetic acid (80 ml), stirred at 100° C. for 2 days, and then the solvent was distilled off under reduced pressure. The resultant crude crystals were washed with ethanol, and stirred with heating under reflux in piperidine (10 ml) for 3 hours. The reaction solution was concentrated under reduced pressure, and purified by silica gel column chromatography (eluent: chloroform:methanol=97:3). The resultant colorless solids were combined with ethanol (40 ml) and 10% palladium-carbon (150 mg), and stirred under hydrogen atmosphere at room temperature for 6 hours, and then the catalyst was filtered off. The resultant filtrate was concentrated under reduced pressure to obtain 6-piperidin-1-yl-3-piperidin-3-yl-1,2,4-triazolo[4,3-b]pyridazine (1.18 g) as a colorless amorphous.

reactant | 1-[(benzyloxy)carbonyl]piperidine-3-carboxylic acid | 2.44 g | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(=O)O | C14H17NO4
reactant | 3-chloro-6-hydrazinopyridazine | 1.34 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | hydrochloride | 2.13 g | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 6-piperidin-1-yl-3-piperidin-3-yl-1,2,4-triazolo[4,3-b]pyridazine | 1.18 g | N1(CCCCC1)C=1C=CC=2N(N1)C(=NN2)C2CNCCC2 | C15H22N6
